US07507734B2
(e) 6-(4-Hydroxy-3,5-dimethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one
100 mg of 4-[5-(1H-Indol-2-yl)-6-methoxy-pyridazin-3-yl]-2,6-dimethyl-phenol is suspended in 2 ml acetonitrile and 40 μl of trimethylsilyl chloride and 53 mg of potassium iodide are added. The solution is heated to 80° C. for 3h, then a further 120 μl of trimethylsilyl chloride and 159 mg of potassium iodide are added. The solution is heated to 80° C. for 3 h then stirred at RT for 16 h. The reaction solution is diluted with water and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid).

reactant | 4-[5-(1H-Indol-2-yl)-6-methoxy-pyridazin-3-yl]-2,6-dimethyl-phenol | 100 mg | N1C(=CC2=CC=CC=C12)C=1C=C(N=NC1OC)C1=CC(=C(C(=C1)C)O)C | C21H19N3O2
reactant | trimethylsilyl chloride | 40 μl | C[Si](C)(C)Cl | C3H9ClSi
reactant | potassium iodide | 53 mg | [I-].[K+]
reactant | trimethylsilyl chloride | 120 μl | C[Si](C)(C)Cl | C3H9ClSi
reactant | potassium iodide | 159 mg | [I-].[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-(4-Hydroxy-3,5-dimethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one | OC1=C(C=C(C=C1C)C=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1)C | C20H17N3O2
